US05543507
1,8-Octanediol is treated with one equivalent of dihydropyrane in the presence of acid to give the 8-(tetrahydropyran-2-yl)octanol. 8-(Tetrahydropyran-2-yl)octanol, N-hydroxyphthalimide and triphenylphosphine in DMF are treated at 0° C. with diisopropylazodicarboxylate utilizing Mitsunobu reaction conditions to give O-[8-(tetrahydropyran-2-yl)octanol)phthalimide. Acid treatment of O-[8-(tetrahydro-pyran-2-yl)octanol]phthalimide will yield O-(octanol)phthalimide which in turn when treated with phosphorous tribromide and pyridine utilizing the reaction conditions of Hall, et al., Synthetic Procedures in Nucleic Acid Chemistry, Zorbach and Tipson, Editors, Volume 1, John Wiley & Sons, 1968 will yield O-(8-bromooctanol)phthalimide.

reactant | 1,8-Octanediol | C(CCCCCCCO)O | C8H18O2
reactant | dihydropyrane | one equivalent | O1CCCC=C1 | C5H8O
product | 8-(tetrahydropyran-2-yl)octanol | O1C(CCCC1)CCCCCCCCO | C13H26O2
